US05055464
In 220 ml of methanol is dissolved 6.9 g of ethyl cis-3-amino-8-chloro-4-oxo-2-phenyl-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate, into which ammonia gas is blown to the level of saturation under ice-cooling. The reaction temperature is slowly elevated to room temperature, and the mixture is allowed to stand still overnight. Then, the reaction mixture is concentrated under reduced pressure. The separated crystals are collected by filtration to give 6.2 g of cis-3-amino-8-chloro-4-oxo-2-phenyl-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetamide.

reactant | ethyl cis-3-amino-8-chloro-4-oxo-2-phenyl-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate | 6.9 g | N[C@@H]1[C@@H](SC2=C(N(C1=O)CC(=O)OCC)C=CC(=C2)Cl)C2=CC=CC=C2 | C19H19ClN2O3S
reactant | ammonia | N | H3N
solvent | methanol | 220 ml | CO | CH4O
product | cis-3-amino-8-chloro-4-oxo-2-phenyl-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetamide | 6.2 g | N[C@@H]1[C@@H](SC2=C(N(C1=O)CC(=O)N)C=CC(=C2)Cl)C2=CC=CC=C2 | C17H16ClN3O2S
